US08580794B2
4-((4-fluoro-1-methylpiperidin-4-yl)methoxy)-3-(trifluoromethylsulfonyl)benzenesulfonamide
To a solution of (4-fluoro-1-methylpiperidin-4-yl)methanol (0.315 g) in tetrahydrofuran (5 mL) was added sodium hydride (0.342 g). After stirring for 15 minutes, 4-fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide (0.658 g) was added as a solution in tetrahydrofuran (2 mL) followed by additional tetrahydrofuran (5 mL). After stirring for 1 hour, the reaction was poured in dichloromethane (50 mL) and water (25 mL) and the pH of the water layer was adjusted to 8. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The resulting oil was chromatographed over silica gel (Reveleris 40 g) eluting with a gradient of 1.0% to 10% 7N NH3 in methanol/dichloromethane over 20 minutes then maintaining 10% 7N NH3 in methanol/dichloromethane for 5 minutes (flow=30 mL/min) to provide the title compound.

reactant | (4-fluoro-1-methylpiperidin-4-yl)methanol | 0.315 g | FC1(CCN(CC1)C)CO | C7H14FNO
reactant | sodium hydride | 0.342 g | [H-].[Na+]
reactant | 4-fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide | 0.658 g | FC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C7H5F4NO4S2
reactant | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-((4-fluoro-1-methylpiperidin-4-yl)methoxy)-3-(trifluoromethylsulfonyl)benzenesulfonamide | FC1(CCN(CC1)C)COC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C14H18F4N2O5S2
